US04956359
3-Phenoxy-1-azetidinecarboxamide
A stirred slurry of 7 g (0.03 mole) of 3-phenoxyazetidine oxalate [1:1] in 100 ml of acetone was treated with 5.3 g (0.05 mole) of nitrourea then after 30 min, treated with 5 ml of water and 5 ml of triethylamine. After stirring for 8 hr, the reaction mixture was diluted with 125 ml of water and stirred until a fine white crystalline solid precipitated. Filtration yielded 3.85 g, m.p. 179°-186° C. The solid was recrystallized from tetrahydrofuran to yield 1.3 g (22.5%) of fine white crystals, m.p. 195°-196° C.

reactant | 3-phenoxyazetidine oxalate | 0.03 mole, 7 g | C(C(=O)O)(=O)O.O(C1=CC=CC=C1)C1CNC1
reactant | nitrourea | 0.05 mole, 5.3 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 125 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-Phenoxy-1-azetidinecarboxamide | 1.3 g, 22.5% | O(C1=CC=CC=C1)C1CN(C1)C(=O)N | C10H12N2O2
